US08426441B2
4-Isopropoxy-N-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide
To a solution of 117 mg (0.500 mmol) of 2-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine, 0.26 mL (1.5 mmol) of triethylamine, and 4-isopropoxybenzoic acid in 2.5 mL of DMF was added HATU at RT. The reaction mixture was stirred at RT for 19 hours then partitioned between 50 mL of EtOAc and 50 mL of water. The organic layer was washed with 50 mL of saturated NaHCO3 solution, dried (MgSO4) and concentrated. Column chromatography (0->30% ethyl acetate/hexanes in 10 minutes) gave 175 mg (0.443 mmol, 88%) of the title compound.

reactant | 2-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 0.500 mmol, 117 mg | CC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N | C13H20BNO2
reactant | triethylamine | 1.5 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | 4-isopropoxybenzoic acid | C(C)(C)OC1=CC=C(C(=O)O)C=C1 | C10H12O3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 4-Isopropoxy-N-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide | 0.443 mmol, 175 mg, 88% | C(C)(C)OC1=CC=C(C(=O)NC2=C(C(=CC=C2)B2OC(C(O2)(C)C)(C)C)C)C=C1 | C23H30BNO4
